US05593993
N-[(2-thiazolylamino)thioxomethyl]-DL-phenylalanine methyl ester
A solution of 1-[(2-thiazolyl)thiocarbamoyl]imidazole (4.21 g, 20.0 mmol) and DL-phenylalanine methyl ester hydrochloride (4.31 g, 20.0 mmol) in N,N-dimethylformamide (150 mL) was heated at 90° C. for 3 h. The reaction was cooled to room temperature, solvent removed under reduced pressure, recrystalllized from ether-hexanes to provide 3.26 g (51%) of the titled product:

reactant | 1-[(2-thiazolyl)thiocarbamoyl]imidazole | 20.0 mmol, 4.21 g | S1C(=NC=C1)NC(=S)N1C=NC=C1 | C7H6N4S2
reactant | DL-phenylalanine methyl ester hydrochloride | 20.0 mmol, 4.31 g | Cl.COC(C(N)CC1=CC=CC=C1)=O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | N-[(2-thiazolylamino)thioxomethyl]-DL-phenylalanine methyl ester | 3.26 g, 51% | COC(C(NC(=S)NC=1SC=CN1)CC1=CC=CC=C1)=O | C14H15N3O2S2
